US08124617B2
2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine-6-carbaldehyde
To a solution of {2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-6-yl}methanol (1.0 g) in dichloromethane (50 ml) was added manganese peroxide (2.3 g), and the mixture was stirred at room temperature for 8 hr. The insoluble material was removed by filtration, and the filtrate was concentrated. The obtained crude crystals were washed with diethyl ether to give the title compound (0.70 g, yield 69%) as colorless crystals. melting point 170-171° C. purity 87%. M+H: 388. 1H NMR (CDCl3) δ: 1.52 (6H, d, J=6.0 Hz), 4.76-4.85 (1H, m), 5.17 (2H, s), 7.03-7.07 (1H, m), 7.11-7.16 (1H, m), 7.31-7.52 (5H, m), 8.20 (1H, d, J=3.2 Hz), 8.53 (1H, s), 8.88 (1H, d, J=1.5 Hz), 10.19 (1H, s).

reactant | {2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridin-6-yl}methanol | 1.0 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC=C(C2)CO)N1)OC(C)C | C23H23N3O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | manganese peroxide | 2.3 g | O=[Mn]=O
product | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine-6-carbaldehyde | 0.70 g, yield 69% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC=C(C2)C=O)N1)OC(C)C | C23H21N3O3
